Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"you are not a doctor"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___  is a ___ female ___ with a past
psychiatric history of depression, anxiety, and a working
diagnosis of schizophreniform disorder who was brought in by
ambulance on a ___ from her primary care's office after
endorsing suicidal ideation.  Psychiatry is consulted for safety
assessment, treatment and disposition management.

On interview ___ begins to question interviewer stating "I 
do
not believe your doctor" "you are not a doctor". "I do not need
to answer your questions, because you are not a doctor". 
Interviewer made several attempts to engage ___, however
___ became increasingly anxious, and started to try to leave
her room.  Multiple attempts at verbal redirection were made,
___ tended to comply when redirection was done by female
staff.  ___ was insistent on having all of her possessions 
in
her room, had to be redirected by several staff in regards to
hospital policy.  ___ would not answer any further 
questions.

Collateral:
 PCp ___ MD
___ was seen earlier today by outpatient provider, she was
noted to have pressured speech and when asked if she had any
thoughts of hurting herself ___ stated if she left the 
office
she may harm herself.  She also expressed suicidal ideation to
the triage nurse.  Provider noted that ___ affect and
speech are markedly different on today's evaluation as compared
to past encounters.  Her mother noted ___ had not slept well
last night, and was not taking her medications.  ___ kept
saying she needed to be tested for Lyme disease and that this 
was
very important, was also noted to be aggressive at times when 
she
spoke.  ___ was suctioned during this office visit and sent
to ___ for further evaluation.

___ ___
Provider has seen ___ total of 5 times in the past, ___ is
relatively new in his practice.  He notes she just got released
from a hospitalization in ___ where she had been placed on
Seroquel and had been doing well, but then stopped taking the
Seroquel because of the side effect profile (did not like how it
blunted her cognition).  He notes she has some persistent
psychotic believes, some paranoid religious delusions regarding
her faith as a Muslim.  He notes her father had a recent
amputation due to complications from diabetes, which ___
interpreted as a punishment towards her father for him not being
a good enough Muslim.  He has tried to refer her to a
psychopharmacologist in the past, the psychopharmacologist
recently contacted Dr. ___ told him she became
increasingly suspicious and began telling him he was not a
license provider.

Mother and Father 
They state daughter began behaving strangely in ___, mother
states it was during her time while she was working at a ___.  Her father states that he started noticing daughter
behaving strangely after his leg amputation.  She had recently
been hospitalized at Hospital at ___ where she was placed on
300 mg of Seroquel.  She had been doing well on this dose after
discharge, but stopped taking this medication because she was
becoming too sleepy during the day.  She had also been 
prescribed
perphenazine 4 mg which she stopped taking 2 days ago, because 
it
made her too sleepy and she needed to study for her MCAT. 
___ parents note there are concerns regarding ___
lack of medical adherence.  And wish their daughter to get 
proper
psychiatric treatment.

Following information obtained from collateral as ___
refusing to answer questions and participate in interview 

On admission to the psychiatry unit: 
Chief Complaint: "They brought me here."

History of Present Illness:
     ___ is a ___ woman with a past psychiatric
history of depression, anxiety, and a working diagnosis of
schizophreniform disorder who was brought to the ED by ambulance
on a ___ from her PCP's office after endorsing suicidal
ideation.
     ___ demonstrated anxious and paranoid behavior in the
ED, refusing to speak with interviewers and attempting to leave
her room. She was given Ativan 1mg PO and Haldol 5mg IM. Upon
admission to the unit, ___ was sedated and unable to 
complete
full interview. She said that she was in the hospital because "I
was doing everything I had to, then in the past year everything
got confusing. People got jealous." ___ perseverates on 
which
floor of the building we are on saying "Is this the fourth
floor?" and repeating "I'm on 4." She also repeatedly mentions
being transferred to a different unit, "I can't be on this 
floor.
I need to be on another floor. Another hospital." She denied
SI/HI and denied AVH.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: 
Diagnosis: mixed obsessional thoughts and acts- severe, single 
major depressive episode with psychotic features, anxiety, MDD
Hospitalizations: 3 ___, ___ 
in ___
Current treaters and treatment: 
Dr. ___- psychologist  
No current psychiatrist
Dr. ___ – PCP (has not prescribed psychiatric 
medications)
Medication and ECT trials: Seroquel, Lorazepam, Perphenazine  
Self-injury: none
Prior Suicide Attempts: none per collateral, on initial 
interview she endorsed SA while making stabbing gestures towards 
her lag stating “I did this with keys.” Unable to state intent 
behind this act.
Harm to others: none 
Access to weapons: none  

PAST MEDICAL HISTORY: 
- hyperlipidemia 
 
Social History:
___
Family History:
Father: reports history of depression that began ___ years ago 
after his mother died (became acutely depressed described as 
+racing thoughts, +insomnia, decreased appetite). He has taken 
Prozac and Zyprexa for ___ years. Per collateral from therapist, 
he may have bipolar disorder vs. schizoaffective disorder
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION: 

*VS:  BP:121/68   HR:120   temp:98.3    resp:20  O2 sat:100% 

General: young female in NAD. Well-nourished, well-developed.
Appears stated age.
 HEENT: Normocephalic, atraumatic. PERRL, EOMI. Most mucous
membranes. Oropharynx clear.
 Neck: Supple.
 Lungs: CTAB. No crackles, wheezes, or rhonchi.
 CV: tachycardic, regular rhythm, Normal S1 and S2, no
murmurs/rubs/gallops. 
 Abdomen: +BS, soft, non-distended, non-tender to palpation. No
palpable masses or organomegaly.
 Extremities: No clubbing, cyanosis, or edema.
 Skin: No rashes, abrasions, scars, or lesions noted.

Neurological:
 Cranial Nerves:
 I: Not tested.
 II: PERRL.
 III, IV, VI: EOMI intact ___ without nystagmus.
 V, VII: Facial strength and sensation intact and symmetric.
 VIII: Hearing intact to interview
 IX, X: Not assessed
 XI: Trapezius normal bilaterally.
 XII: Tongue midline without fasciculations.
 Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength: full power ___ throughout. Coordination:
Normal on finger to nose test. Sensation: Intact to light touch
throughout. 
 Gait: Steady. Normal stance and posture. No truncal ataxia.
 Romberg: Not tested

Cognition: 
 Wakefulness/alertness: awake and alert 
 *Attention (digit span, MOYB): ___ refusing to participate 
 *Orientation: oriented to person, place and time 
 Executive function (go-no go, Luria, trails, FAS):
 *Memory: ___ refusing to participate    
 *Fund of knowledge: ___ refusing to participate  
 Calculations:  ___ refusing to participate 
 Abstraction: ___ refusing to participate 
 Visuospatial: ___ refusing to participate 
 *Speech: low volume, normal rate and tone  
 *Language: fluent in ___ 
 
Mental Status:
 *Appearance: young appearing female, in no acute distress,  
 Behavior: ___ was noted to be very suspicious and anxious,
wanting to grab her phone, poor eye contact, no psychomotor
agitation 
 *Mood and Affect:" " affect flat, limited range 
 *Thought process / *associations: linear, unable to engage in
conversation  
 *Thought Content: endorsing SI to outpatient providers, notable
paranoid and persecutory ideation, unclear if ___ responding
to internal stimuli 
 *Judgment and Insight: poor/poor  

PHYSICAL EXAM ON DISCHARGE: 

*VS:  BP:96/64-->100/68 on repeat HR:75  temp:97.8F  resp:16  O2 
sat:98-100%

Neurological:
    *station and gait: steady gait
    *tone and strength: moves all extremities freely
    cranial nerves: grossly intact
    abnormal movements: none appreciated
    frontal release: not tested

MSE:   
   *Appearance: age-appearing young woman, with good hygiene,
wearing a blouse and cardigan, jeans, and brown flats, 
dark-rimmed glasses, hair in a ponytail, carrying a marble 
notebook
    Behavior: calm and cooperative, pleasant, engaged in 
interview, no psychomotor agitation or retardation, improved eye 
contact, increased spontaneous smile 
   *Mood and Affect: mildly constricted affect, stable
   *Speech: regular rate, volume, tone
   *Thought process: linear, goal-directed
   *Thought Content: no evidence of SI/HI, internal 
preoccupation or paranoia
   *Judgment and Insight: fair/improved

Cognition:
    *Attention, *orientation, and executive function: alert and 
oriented
    *Memory: intact to recent/past events
    *Fund of knowledge: above average
    *Language: fluent in ___
 
Pertinent Results:
CBC: 
___ 04:15PM   WBC-8.7 RBC-4.35 HGB-12.1 HCT-36.8 MCV-85 
MCH-27.8 MCHC-32.9 RDW-12.5 RDWSD-38.1 PLT COUNT-255
___ 04:15PM   NEUTS-78.1* LYMPHS-12.3* MONOS-8.5 EOS-0.2* 
BASOS-0.7 IM ___ AbsNeut-6.82* AbsLymp-1.07* AbsMono-0.74 
AbsEos-0.02* AbsBaso-0.06

BMP: 
___ 04:15PM   GLUCOSE-109* UREA N-6 CREAT-0.6 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-22 ANION GAP-15
___ 04:30PM   GLUCOSE-86 UREA N-10 CREAT-0.6 SODIUM-140 
POTASSIUM-3.9 CHLORIDE-106 TOTAL CO2-23 ANION GAP-11 CALCIUM-9.0 
___ MAG-2.1

Urinalysis: 
___ 03:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

B-HCG: 
___ 03:30PM URINE  UCG-NEGATIVE

Hgb A1C: 5.1

Lipid Panel: 
___ 04:15PM   CHOLEST-204*
___ 04:15PM   TRIGLYCER-50 HDL CHOL-110 CHOL/HDL-1.9 
LDL(CALC)-84

TSH:
___ 16:15PM   TSH-1.7
___ 04:30PM   TSH-4.0

Lithium Level 
___: ___- 0.6

Serum Tox:
___ 04:15PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG

Urine Tox:
___ 03:30PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, Ms. ___ was unable to sign a conditional 
voluntary agreement due to her catatonia and was admitted on a 
___ which expired on ___. Ms. ___ refused to sign a 
CV at that time (during a family meeting her father requested 
that the ___ be discharged and she declined to sign a CV). A 
___ was filed, however, the ___ had clinically improved 
and was safe for discharge prior to a court date being set. Ms. 
___ was also placed on q15 minute checks status on admission 
and remained on that level of observation throughout while being 
unit restricted. She was notably restricted from the back 
hallway of the unit at the beginning of her hospitalization due 
to intrusive and disruptive behavior. 

2. PSYCHIATRIC:
___ was initially very anxious and intrusive on arrival to 
the unit. She frequently approached staff for guidance and was 
difficult to redirect. She needed frequent reassurance that she 
was safe on the unit and was often found pacing the hallways. 
She also demonstrated some bizarre behaviors along with 
echolalia, perseveration, ambitendency, impulsivity, and 
tachycardia. She was initially treated with anti-psychotics 
(Perphenazine which was reportedly tolerated during previous 
admissions) and Ativan qhs and PRN for anxiety with little to no 
improvement. Upon further consideration, her presentation became 
more concerning for an excited catatonia and ___ was given a 
trial of Ativan followed by a standing Ativan taper with 
significant improvement in her thought process, affect, and 
speech. A family meeting was held with ___ and ___ parents, 
who felt strongly that the ___ should be discharged with 
close follow-up. However, ___ had only recently begun to show 
improvement and was at risk of decompensation, especially during 
ongoing medication adjustments at that time. She was started on 
Lithium upon improvement of her symptoms for mood stabilization, 
which she tolerated well and continued to demonstrate 
improvement with increased linearity, clarity and complexity of 
thought, and brighter affect. She denied any thoughts of 
self-harm or harm towards others (which was repeated by 
collateral despite ___ initial claim to have hurt herself 
with keys on initial interview when likely catatonic). The 
differential remains broad with consideration of unspecified 
affective vs. psychotic disorder, though her improvement with 
Lithium suggests possible underlying mood disorder (i.e. bipolar 
spectrum illness). She was discharged on Ativan 1mg TID with an 
additional 1mg daily PRN for anxiety with plan to remain on this 
medication for 6months. She was also discharged on Lithium 600mg 
qhs (last dose adjustment on ___ with a Lithium Level of 
0.6 on ___. Her repeat BMP on ___ was within normal 
limits and TSH was 4.0, which was elevated from admission (TSH 
1.7 on ___ but still within normal limits. Though ___ 
initially struggled to appreciate her symptoms on presentation, 
she gradually gained some ability to reflect on her initial 
presentation and demonstrated insight into her diagnosis of a 
mental illness. She was also able to engage in a meaningful 
discussion about the importance of medication compliance and 
continued care with outpatient providers. 

3. SUBSTANCE USE DISORDERS:
Ms. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.

4. MEDICAL
Ms. ___ was medically cleared in the ED and no acute medical 
issues prevented admission to Deac 4. She initially had 
tachycardia which improved with treatment of her catatonia.  

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
Ms. ___ was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
occupational therapy and social work groups that focus on 
teaching patients various coping skills. Ms. ___ was initially 
unable to participate in these groups given her presentation, 
however, by time of discharge often attended these groups. She 
was frequently visible on the milieu. Though she was initially 
intrusive and frequently found pacing, with treatment and by 
time of discharge she was appropriately interacting with staff 
and peers.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Ms. ___ gave verbal permission for the team to contact her 
outpatient therapist, Dr. ___. He was provided with a 
summary of Ms. ___ presentation to the ___ ED/Deac 4 and 
an update of her progress since admission on Deac 4, and they 
provided collateral information. Ms. ___ did not have an 
outpatient psychiatrist but had an outpatient psychiatry 
appointment scheduled with a psychiatrist through ___ 
___ (established through her PCP) upon discharge. 

Ms. ___ gave verbal permission for the team to contact her 
family (parents and cousin). Her parents visited the unit, were 
given updates about Ms. ___ progress while on the unit and 
came for a family meeting prior to discharge and informed of the 
discharge plan. Of note, while they are very supportive of 
___ they appeared to have limited understanding of ___ 
diagnosis. However, they expressed commitment to encouraging 
medication compliance and outpatient follow-up. 

6. INFORMED CONSENT: 
*Medication: Lithium
---Benefits: Mood stabilization
---Adverse effects: GI symptoms (diarrhea, nausea), acne, rash, 
alopecia, weight gain (common), sedation (common), leukocytosis, 
lithium toxicity (ataxia, dysarthria, delirium, tremor, memory 
problems), nephrogenic diabetes insipidus (polyuria, 
polydipsia), renal impairment, cardiac arrhythmia, seizures 
(rare), pseudotumor cerebri (rare). Ms. ___ was informed of 
alternative treatments, the consequences of no treatment, and 
the expected duration of treatment. She appeared to appreciate 
the information conveyed in the consent process by asking 
appropriate questions, which were answered by the treatment 
team, and expressing understanding of the potential risks and 
benefits (see above). Prior to starting treatment, the team also 
discussed the ___ right to decide whether to take this 
medication as well as the importance of the ___ actively 
participating in the treatment.  Ms. ___ understood the above 
and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Ms. ___ was evaluated and felt to be at an 
increased risk of harm to herself. Ms. ___ static risk 
factors noted at that time include recent diagnosis of a mental 
illness, recent discharge from an inpatient psychiatric unit, 
family history of mental illness, age, single relationship 
status, and unemployment. The modifiable risk factors identified 
were as such: possible suicidal ideation (made vague statement 
during PCP visit prior to presentation), psychosis, disorganized 
and bizarre behavior, impulsivity, medication non-compliance, 
poorly controlled mental illness, lack of engagement with 
outpatient treatment (consistently saw PCP and psychologist but 
had not established care with outpatient psychiatrist), poor 
reality testing, severe anxiety, insomnia, question of active 
self-injurious behaviors (mentioned hurting herself with keys on 
early interview, but no history of self-injurious behaviors by 
collateral), loss of executive function, acutely stressful 
events (father's health, studying for the MCAT, quitting her job 
as a ___). These modifiable risk factors were 
addressed with acute stabilization in a safe environment on a 
locked inpatient unit, psychopharmacologic adjustments, 
psychotherapeutic interventions (OT groups, SW groups, 
individual therapy meetings with psychiatrists), and presence on 
a social milieu environment. Ms. ___ is being discharged with 
many protective factors, including female gender, sense of 
responsibility to family, help-seeking behavior, life 
satisfaction, future-oriented viewpoint, strong social supports, 
lack of suicidal ideation, consistent outpatient follow-up, 
positive therapeutic relationship with outpatient providers (PCP 
and psychologist) with new appointment scheduled with outpatient 
psychiatrist, medication compliance (has been compliant during 
hospitalization and states that she will continue to take 
medications following discharge with close follow-up with 
outpatient providers), no prior suicide attempts/self-injurious 
behavior, no chronic substance use, and improved reality-testing 
ability at time of discharge. Overall, based on the totality of 
our assessment at this time, Ms. ___ is not at an acutely 
elevated risk of harm to self nor danger to others. 

Our prognosis of this ___ is fair given her strong social 
support, outpatient follow-up, commitment to medication 
compliance, and high level of functioning with no thoughts or 
history of self-harm. However, it should be noted that the 
___ has a history of medication non-adherence and her family 
demonstrated limited insight into her condition.
 
Medications on Admission:
0The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO Frequency is Unknown 
2. Perphenazine 4 mg PO Frequency is Unknown 

 
Discharge Medications:
1.  Lithium Carbonate 600 mg PO QHS 
RX *lithium carbonate 600 mg 1 capsule(s) by mouth nightly Disp 
#*7 Capsule Refills:*0 
2.  LORazepam 1 mg PO TID 
RX *lorazepam [Ativan] 1 mg 1 tablet by mouth three times a day 
Disp #*21 Tablet Refills:*0 
3.  LORazepam 1 mg PO DAILY:PRN anxiety 
RX *lorazepam [Ativan] 1 mg 1 tablet by mouth daily as needed 
Disp #*7 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Catatonia

 
Discharge Condition:
Alert and oriented. Ambulating well, independently. Constricted 
but brighter affect, linear and logical thought process without 
suicidal ideation. 

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___